US04792561
6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril acetate (1.0 g) is dissolved in 50 ml of methanol and a stoichiometric amount of a solution of hydrochloric acid in methanol is added. The solvent is removed under vacuum and the residue recrystallised from a mixture of methanol and ethyl acetate to yield 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride.

reactant | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril acetate | 1.0 g | C(C)(=O)O.N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 6-[3-(imidazol-1-yl)propyl]-3,4-dihydrocarbostyril hydrochloride | Cl.N1(C=NC=C1)CCCC=1C=C2CCC(NC2=CC1)=O | InChI=1S/C15H17N3O.ClH/c19-15-6-4-13-10-12(3-5-14(13)17-15)2-1-8-18-9-7-16-11-18;/h3,5,7,9-11H,1-2,4,6,8H2,(H,17,19);1H
